US05332739
(1) Synthesis of 1-(2-[2-benzoylphenyl]ethyl)piperazine.hydrochloride
1.1 g of 1-(t-butyloxycarbonyl)-4-(2-phenylethyl)piperazine was dissolved in 8 ml of tetrahydrofuran, and 2.8 ml of butyllithium (1.6N, a hexane solution) was added dropwise to the solution at -30° C. followed by stirring for 30 minutes. Next, 0.88 ml of benzoyl chloride was added thereto, and the solution was stirred for 3 hours, poured into ice water, and then extracted with 50 ml of chloroform. The resultant chloroform layer was washed with water, dried over anhydrous sodium sulfate, and then concentrated, and the residue was separated through a silica gel column chromatograph (hexane/ethyl acetate=1/1). The resultant oil dissolved in 10 ml of ether, and 4.8 ml of a 4N hydrochloric acid/dioxane solution was added thereto, followed by stirring at room temperature for 30 minutes. The precipitated crystals were collected by filtration, whereby 0.36 g of 1-2-[2-benzoylphenyl]ethyl)piperazine.hydrochloride was obtained.

reactant | 1-(t-butyloxycarbonyl)-4-(2-phenylethyl)piperazine | 1.1 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCC1=CC=CC=C1 | C17H26N2O2
reactant | butyllithium | 2.8 ml | C(CCC)[Li]
reactant | hexane | CCCCCC | C6H14
reactant | benzoyl chloride | 0.88 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 1-(2-[2-benzoylphenyl]ethyl)piperazine.hydrochloride | Cl.C(C1=CC=CC=C1)(=O)C1=C(C=CC=C1)CCN1CCNCC1 | InChI=1S/C19H22N2O.ClH/c22-19(17-7-2-1-3-8-17)18-9-5-4-6-16(18)10-13-21-14-11-20-12-15-21;/h1-9,20H,10-15H2;1H
